US06838463B2
In 7 ml of N,N-dimethylformamide were dissolved 207 mg of 4-chloro-6-(3-fluorophenyl)pyrimidine and 67 mg of 2-propyn-1-ol, to which 48 mg of sodium hydride (60% in oil) was added, followed by stirring at room temperature for 6 hours. The reaction mixture was then poured into water and extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then concentrated. The resulting residue was subjected to silica gel column chromatography to give 170 mg of 4-(3-fluorophenyl)-6-(2-propynyloxy)pyrimidine (the present compound (56)).

reactant | 4-chloro-6-(3-fluorophenyl)pyrimidine | 207 mg | ClC1=NC=NC(=C1)C1=CC(=CC=C1)F | C10H6ClFN2
reactant | 2-propyn-1-ol | 67 mg | C(C#C)O | C3H4O
reactant | sodium hydride | 48 mg | [H-].[Na+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
product | 4-(3-fluorophenyl)-6-(2-propynyloxy)pyrimidine | 170 mg | FC=1C=C(C=CC1)C1=NC=NC(=C1)OCC#C | C13H9FN2O
